US06350749B1
In methanol (1200 ml) was suspended (±)-7-(2-chlorophenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline hydrochloride (123.9 g), and to the suspension was added dropwise 28% sodium methoxide in methanol (119.2 ml). The mixture was stirred at 50° C. for 30 minutes. Under reduced pressure, the solvent was evaporated, and to the residue was added water. The crystals were filtered, washed with water and dried to give colorless crystals of (±)-7-(2-chlorophenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline (109.3 g).

reactant | (±)-7-(2-chlorophenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline hydrochloride | 123.9 g | Cl.ClC1=C(C=CC=C1)C1CC(C=2C(=CC=NC2C1)C)=NNC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 1200 ml | CO | CH4O
solvent | methanol | 119.2 ml | CO | CH4O
product | (±)-7-(2-chlorophenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline | 109.3 g | ClC1=C(C=CC=C1)C1CC(C=2C(=CC=NC2C1)C)=NNC(=N)N | C17H18ClN5
